US07074790B2
2-[(Cyclopentylcarbonyl)amino]butanoic acid
35 g (339 mmol) 2-aminobutanoic acid and 75.6 g (747 mmol) triethylamine are suspended in 300 ml of dichloromethane and stirred at 0° C. 81 g (747 mmol) chlorotrimethylsilane are added dropwise, then the mixture is stirred for 1 hour at room temperature and for 1 hour at 40° C. After cooling down to −10° C., 45 g (339 mmol) cyclopentanecarbonyl chloride are added slowly. The reaction mixture is stirred for 2 hours at −10° C. and then for 1 hour at room temperature. At 0° C., 50 ml of water are added. The mixture is diluted with water and dichloromethane, filtered and the solid product washed with water/dichloromethane 9:1, toluene and diethylether.

reactant | 2-aminobutanoic acid | 339 mmol, 35 g | NC(C(=O)O)CC | C4H9NO2
reactant | triethylamine | 747 mmol, 75.6 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 747 mmol, 81 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | cyclopentanecarbonyl chloride | 339 mmol, 45 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-[(Cyclopentylcarbonyl)amino]butanoic acid | C1(CCCC1)C(=O)NC(C(=O)O)CC | C10H17NO3
